US08258131B2
Preparation of 4-fluorophenyl-2,2-dimethyl-2H-1,3-benzoxazin-7-sulfonylchloride
A solution of sodium nitrite (153 mg) in water (2.4 mL) was added dropwise to a solution of 4-fluorophenyl-2,2-dimethyl-2H-1,3-benzoxazin-7-amine (an objective compound of Reference Example 38(3); 600 mg) in acetic acid (18 mL) and concentrated hydrochloric acid (6 mL) at −5° C. and the mixture was stirred at the same temperature for one hour. To the reaction mixture was added a mixture of sulfur dioxide, acetic acid, cupric chloride and water at 0° C. and the mixture was stirred at the same temperature for one hour. The reaction mixture was poured into ice water (200 mL) and the mixture was extracted with ether (50 mL×3). The combined organic layer was washed successively with brine (50 mL) and a saturated aqueous solution of sodium bicarbonate (50 mL×2), dried over sodium sulfate and concentrated in vacuo to give the titled compound (400 mg) as a yellow oil, which was used in the next step without further purification.

reactant | sodium nitrite | 153 mg | N(=O)[O-].[Na+]
reactant | 4-fluorophenyl-2,2-dimethyl-2H-1,3-benzoxazin-7-amine | FC1=CC=C(C=C1)C1=NC(OC2=C1C=CC(=C2)N)(C)C | C16H15FN2O
reactant | hydrochloric acid | 6 mL | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 2.4 mL | O | H2O
solvent | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
product | 4-fluorophenyl-2,2-dimethyl-2H-1,3-benzoxazin-7-sulfonylchloride | 400 mg | FC1=CC=C(C=C1)C1=NC(OC2=C1C=CC(=C2)S(=O)(=O)Cl)(C)C | C16H13ClFNO3S
